US04245107
564 mg. of 2-(phenylsulfinyl)nonanoic acid and 7-amino-3-(2-methyl-1,3,4-thiadiazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid were reacted in the same manner as described in Example 28 and 341 mg. of 7-[2-(phenylsulfinyl)nonanamido]-3-(2-methyl-1,3,4-thiadiazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid were obtained.

reactant | 2-(phenylsulfinyl)nonanoic acid | C1(=CC=CC=C1)S(=O)C(C(=O)O)CCCCCCC | C15H22O3S
reactant | 7-amino-3-(2-methyl-1,3,4-thiadiazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(S2)C)C(=O)O)C1=O | C11H12N4O3S3
product | 7-[2-(phenylsulfinyl)nonanamido]-3-(2-methyl-1,3,4-thiadiazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | C1(=CC=CC=C1)S(=O)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(S2)C)C(=O)O)C1=O)CCCCCCC | C26H32N4O5S4
